US06982274B2
3-Benzo[b]thiophen-2-yl-1H-5-indazolecarbonitrile
To a solution of 600 mg of tert-butyl 3-bromo-5-cyano-1H-1-indazolecarboxylate produced in Production Example I-14-b in 9 ml tetrahydrofuran were added 21 mg of palladium(II) acetate, 57. mg of 2-(di-tert-butylphosphino)biphenyl, 357 mg of potassium fluoride and 498 mg of 2-benzo[b]thiopheneboronic acid, and the mixture was stirred at 50° C. for 1 hour. After removing the solvent by distillation, the residue was dissolved in 2 ml of methylene chloride. 4 ml of trifluoroacetic acid was added and the mixture was stirred at room temperature for one day. After removing the solvent by distillation, the residue was diluted with 50 ml of ethyl acetate. The mixture was sequentially washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:toluene=1:19), to give 294 mg of the title compound as bright yellow crystals.

reactant | tert-butyl 3-bromo-5-cyano-1H-1-indazolecarboxylate | 600 mg | BrC1=NN(C2=CC=C(C=C12)C#N)C(=O)OC(C)(C)C | C13H12BrN3O2
reactant | 2-(di-tert-butylphosphino)biphenyl | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | potassium fluoride | 357 mg | [F-].[K+]
reactant | 2-benzo[b]thiopheneboronic acid | 498 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
catalyst | palladium(II) acetate | 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Benzo[b]thiophen-2-yl-1H-5-indazolecarbonitrile | 294 mg | S1C2=C(C=C1C1=NNC3=CC=C(C=C13)C#N)C=CC=C2 | C16H9N3S
